US07084139B2
Methyl N-[(6-chloro-2-naphthyl)sulfonyl]-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}glycinate
To a solution of (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](2-methoxy-2-oxoethyl)amino]-2-oxopyrrolidin-1-yl}propanoic acid (0.032 g) in DCM (5 ml) were added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.02 g), HOBT (0.014 g) and triethylamine (0.034 ml) and the mixture was stirred at room temperature for 1 h. Piperidine (0.01 ml) was added and the resultant mixture stirred at room temperature for 72 h. The mixture was concentrated under reduced pressure and the residue purified using mass directed preparative h.p.l.c. to give the title compound (0.017 g) as a white solid.

reactant | (2S)-2-{(3S)-3-[[(6-chloro-2-naphthyl)sulfonyl](2-methoxy-2-oxoethyl)amino]-2-oxopyrrolidin-1-yl}propanoic acid | 0.032 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N([C@@H]1C(N(CC1)[C@H](C(=O)O)C)=O)CC(=O)OC | C20H21ClN2O7S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.02 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.014 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Piperidine | 0.01 ml | N1CCCCC1 | C5H11N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.034 ml | C(C)N(CC)CC | C6H15N
product | Methyl N-[(6-chloro-2-naphthyl)sulfonyl]-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}glycinate | 0.017 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N(CC(=O)OC)[C@@H]1C(N(CC1)[C@H](C(N1CCCCC1)=O)C)=O | C25H30ClN3O6S
